US07485732B2
To a solution of 230 mg (0.5 mmol) of 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)acetone in 10 mL of THF was added slowly a solution of 0.42 mL (1.25 mmol) of methylmagnesium chloride (3.0M solution in THF) at −78° C. and stirred for 1 h. The reaction mixture was warmed to 0° C. for 1 h, followed by adding 1 g of sodium sulfate decahydrate to quench the reaction, and stirring for 1 h at rt. The quenched reaction mixture was filtered and the organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/acetone=8:1 to afford racemic 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol as a white solid. The enantiomers were separated by a chiral column (OJ Column with hexanes/ethyl alcohol); 1H NMR(CDCl3) δ 1.06 (s, 3H), 1.15 (S, 3H), 2.29 (t, 1H, J=7.5 Hz), 6.73 (m, 3H), 7.21-7.33 (m, 8H); Mass Spectrum: m/e=476 (M+1 35Cl, 35Cl) and 478 (M+1 35Cl, 37Cl).

reactant | 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)acetone | 0.5 mmol, 230 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO
reactant | methylmagnesium chloride | 1.25 mmol, 3.0M, 0.42 mL | C[Mg]Cl
reactant | sodium sulfate decahydrate | 1 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | racemic 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C26H25Cl2F2NO
